US05707992
Preparation of Intermediate Compound (22)--2-Methoxypyridine-N-oxide
This compound, originally prepared by H. J. Den Hertog and M. Van Ammers, Rec. Trav. Chim. 1955, 74, 1160, was synthesized using a different procedure. To a solution of 21.83 of 2-methoxypyridine (0.2 mol) in glacial acetic acid (80 ml), was cautiously added 30% hydrogen peroxide (20 ml). The stirred mixture was heated to 80° C. for 3 hrs, and cooled to room temperature. An additional 20 ml of 30% H2O2 was added, and the clear solution was heated at 80° C. for 12 hrs. The solution was concentrated to half the original volume under vacuum, and 100 ml of water was added. The solution was reconcentrated, and the process was repeated two times (2×100 ml H2O). The syrup was placed under vacuum to remove remaining water and acetic acid. After time, a white solid formed. The material obtained in quantitative yield was used without further purification; M.P. 128°-130° C.; IR (KBr) 3447, 1613, 1570, 1508 1447, 1316, 1214, 1015, 764 cm-1 ; 1H NMR (CDCl3) δ 4.05 (s, 3H), 6.91 (d, 1H, J=8.0 Hz), 6.92 (m, 1H), 7.33 (dt, 2H, J=8.0, 1.6 Hz), 8.3 (dd, 1H, J=6.3, 1.6 Hz). HRMS Calcd. for C6H7NO2 : 125.0477. Found: 125.0474.

reactant | 2-methoxypyridine | 0.2 mol | COC1=NC=CC=C1 | C6H7NO
reactant | hydrogen peroxide | 20 ml | OO | H2O2
reactant | H2O2 | 20 ml | OO | H2O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2-Methoxypyridine-N-oxide | quantitative yield | COC1=[N+](C=CC=C1)[O-] | C6H7NO2
